US07838499B2
Preparation of 4-(5-bromo-2-chlorobenzoyl)phenethyl acetate (Intermediate BF)
To a solution of commercially available 5-bromo-2-chlorobenzoic acid (5 g, 21.23 mmol) in 30 mL of anhydrous DCM was added a catalytic amount of DMF followed by oxalyl chloride (1.95 mL, 22.3 mmol) and stirred for 2 h at room temperature. A mixture of aluminum trichloride (3.68 g, 27.6 mmol) and phenethyl acetate (3.38 mL, 21.23 mmol) in 15 mL DCM was cooled in an ice-bath and the acid chloride was transferred to it using a canula. The mixture was stirred at room temperature for 4 h. The mixture was poured into 100 mL of ice-cold water and the organic layer was isolated. The aqueous solution was extracted with 25 mL DCM. The combined organic solution was washed with brine (25 mL) and dried (Na2SO4), filtered and evaporated. Purification on silica gel using an ISCO column with 5:1 hexane:EtOAc followed by 10:1 hexane:EtOAc gave intermediate BF (2.1 g, yield 26%). 1H NMR (300 MHz, CDCl3): δ 8.12 (d, J=2.4 Hz, 1H), 7.71 (d, J=8.4 Hz, 1H), 7.59 (d, J=2.7 Hz, 1H), 7.56 (d, J=8.4 Hz, 1H), 7.36 (s, 1H), 7.33 (d, J=8.4 Hz, 1H), 7.30 (d, J=8.4 Hz, 1H), 4.31 (t, J=6.9, 6.6 Hz, 2H), 3.01 (t, J=6.9, 6.6 Hz, 2H), 2.04 (s, 3H).

reactant | 5-bromo-2-chlorobenzoic acid | 21.23 mmol, 5 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | oxalyl chloride | 22.3 mmol, 1.95 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum trichloride | 27.6 mmol, 3.68 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | phenethyl acetate | 21.23 mmol, 3.38 mL | C(C)(=O)OCCC1=CC=CC=C1 | C10H12O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(5-bromo-2-chlorobenzoyl)phenethyl acetate | yield 26% | C(C)(=O)OCCC1=CC=C(C=C1)C(C1=C(C=CC(=C1)Br)Cl)=O | C17H14BrClO3
